US08790691B2
4-methyl piperazine (7.68 mL, 70 mmol, 4 equiv) was added to a stirred solution of tert-butyl 3-bromopropionate (3.0 mL, 18 mmol) in ethyl acetate (15 mL) at 0° C. The solution was stirred at 25° C. for 1 h with evolution of a white precipitate, then heated on an oil bath to 55° C. for 2 h. TLC analysis (20% EtOAc in Hexanes, Rf=0.9 (starting material), 0.1 (product)) indicated complete consumption of the bromide reagent. The reaction was diluted with EtOAc (100 mL) and transferred to a separatory funnel, and the organic phase was washed with water (100 mL), NaHCO3 (sat'd, 2×100 mL), and brine (100 mL), dried over MgSO4 and concentrated to give a slightly yellow oil. The oil was dissolved in methylene chloride (20 mL), loaded on to a pre-equilibrated plug of silica gel (20% EtOAc in Hexanes, 150 mL SiO2) and the desired product was eluted from the silica with increasingly polar eluent (EtOAc in hexanes, starting at 20%, 200 mL volumes increasing in 15% increments to 100%). Fractions containing the desired material were concentrated to give tert-butyl 3-(4-methylpiperazin-1-yl)propanoate (4.1 g, quantitative). 1H NMR (400 MHz, CDCl3) δ (ppm)=3.45 (d, J=3 Hz, 2H), 2.64 (t, J=7.3 Hz, 2H), 2.47 (br s, 6H), 2.38 (t, J=7.3 Hz, 2H), 2.25 (s, 3H), 1.42 (s, 9H).

reactant | 4-methyl piperazine | 70 mmol, 7.68 mL, 4 equiv | CN1CCNCC1 | C5H12N2
reactant | tert-butyl 3-bromopropionate | 18 mmol, 3.0 mL | BrCCC(=O)OC(C)(C)C | C7H13BrO2
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl 3-(4-methylpiperazin-1-yl)propanoate | 4.1 g | CN1CCN(CC1)CCC(=O)OC(C)(C)C | C12H24N2O2
